### ISSUE TITLE
Wishlist for congruence lemmas

### ISSUE THREAD

**Issue by gebner** [leanprover/lean4#988]
As discussed yesterday, let me summarize the important changes related to congruence lemmas in Lean 3 as well as some features that we wanted to add but would have required larger refactorings.

The first two items are about automatically generated congruence lemmas for simp.  The other two are about user congruence lemmas marked with `@[congr]`.  Automatically generated congruence lemmas for congruence closure haven't really changed (these are also used for the `congr` and `convert` tactics).

### Rewriting under subsingleton arguments

If `f : α → β`, then the congruence lemma should be `∀ x y, x = y → f x = f y` even if `α` is subsingleton.

The rationale is that we want to rewrite e.g. zero-length vectors (see corresponding PR https://github.com/leanprover-community/lean/pull/134):
```lean
instance {α : Type u} : HAppend (Fin m → α) (Fin n → α) (Fin (m + n) → α) where
  hAppend a b i := if h : i < m then a ⟨i, h⟩ else b ⟨i - m, sorry⟩

def empty : Fin 0 → Nat := (nomatch ·)

theorem append_empty (x : Fin i → Nat) : x ++ empty = x :=
  funext fun i => dif_pos _

constant f : (Fin 0 → Nat) → Prop
example : f (empty ++ empty) = f empty := by simp only [append_empty] -- should work
```

### Dependent subsingleton instances

This is about functions like the following, where `Decidable`/`Fintype` are classes that are also subsingletons but not in `Prop`:
```lean
decide : (p : Prop) → [Decidable p] → Bool
Fintype.card : (α : Type u) → [Fintype α] → Nat
```

The congruence lemma for `decide` should be `∀ p q, p = q → [Decidable p] → [Decidable q] → decide p = decide q`.

Rationale: generating the instance for `Decidable q` as `‹p = q› ▸ ‹Decidable p›` introduces a diamond, since `‹p = q› ▸ ‹Decidable p›` and `‹Decidable q›` are typically not defeq.  One consequence of using `▸` instead of synthesizing the instance is that simp cannot solve the following example (because `decide p = decide p` would not be true by reflexivity):
```lean
example [Decidable p] : decide (p ∧ True) = decide p := by simp -- should work
```

Relevant PR: https://github.com/leanprover-community/lean/pull/665  Note: we had to disable the subsingleton check completely in Lean 3 because of massive performance issues with TC synthesis.  Now it only checks if the type is of the form `∀ ..., decidable ...`.

### Partially applied user congruence lemmas

This is an actual wishlist item and not implemented in Lean 3 either yet.  But it fits the theme, so let me mention it here.

User congruence lemmas should also work if they only match a prefix of the application.  That is, a congruence lemma `Array.get as i = Array.get bs j` should also apply to a subterm `Array.get xs j y`.

```lean
@[congr]
theorem Array.get_congr (as bs : Array α) (h : as = bs) (i : Fin as.size) (j : Nat) (hi : i = j) :
    as.get i = bs.get ⟨j, h ▸ hi ▸ i.2⟩ := by
  subst bs; subst j; rfl

example (as : Array Nat) (h : 0 + x < as.size) :
    as.get ⟨0 + x, h⟩ = as.get ⟨x, Nat.zero_add x ▸ h⟩ := by
  simp -- should work

example (as : Array (Nat → Nat)) (h : 0 + x < as.size) :
    as.get ⟨0 + x, h⟩ i = as.get ⟨x, Nat.zero_add x ▸ h⟩ i := by
  simp -- should also work
```

### Type-specific congruence lemmas

Another actual wishlist item, it would be useful to lift the restriction that all function arguments on the lhs must be free variables.  With polymorphic functions, you often want to declare a more specific congruence lemma for some types (e.g. if some arguments become subtypes---see congruence lemma for the `Fin` argument of `Array.get` above.)

```lean
def Pi.single [DecidableEq ι] {f : ι → Type u} [∀ i, Inhabited (f i)] (i : ι) (x : f i) : ∀ i, f i :=
  fun j => if h : j = i then h ▸ x else default

structure Set (α : Type u) where of :: mem : α → Prop

instance : CoeSort (Set α) (Type u) where coe s := Subtype s.mem

@[congr]
theorem dep_congr [DecidableEq ι] {p : ι → Set α} [∀ i, Inhabited (p i)] :
    ∀ {i j} (h : i = j) (x : p i) (y : α) (hx : x = y), Pi.single (f := (p ·)) i x = Pi.single (f := (p ·)) j ⟨y, hx ▸ h ▸ x.2⟩
  | _, _, rfl, _, _, rfl => rfl
```

Requested on Zulip: https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/simp.20simp/near/263872040

**Comment by leodemoura** [comment]
@gebner Thanks!

The current TODO list is:
1) Automatically generate lemma
```lean
@[congr] theorem decide_congr (p q : Prop) (h : p = q) [s₁ : Decidable p] [s₂ : Decidable q] : decide p = decide q := by
  subst h
  have : s₁ = s₂ := Subsingleton.elim s₁ s₂
  subst this
  rfl
```

2) Lift the restriction that all function arguments on the lhs must be free variables.

**Comment by leodemoura** [comment]
@gebner Do you have an example that needs `dep_congr`?

**Comment by gebner** [comment]
> Do you have an example that needs dep_congr?

Here you go:

```lean
def Submodule (α : Type u) [OfNat α 0] := { s : Set α // s.mem 0 }
instance [OfNat α 0] : CoeSort (Submodule α) (Type u) where coe s := s.1
instance [OfNat α 0] (p : Submodule α) : Inhabited p where default := ⟨0, p.2⟩

example (p : Nat → Submodule Nat) :
    Pi.single (f := (p ·)) (x - x) ⟨0, (p ..).2⟩ = Pi.single 0 ⟨0, (p ..).2⟩ := by
  simp only [Nat.sub_self] -- should work
```

**Comment by leodemoura** [comment]
@gebner The new test `988.lean` contains all examples from the wishlist above. If there are missing features, please create a new issue.
